US07560569B2
(2S,4S)-1-[[N-Benzyloxycarbonyl-N-[4-(piperidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) and 10% palladium carbon (3.0 mg) were dissolved in ethanol (1.0 mL) and dichloromethane (0.5 mL). The mixture was stirred at room temperature for 8 hours in a hydrogen atmosphere. The mixture was then filtered through a Celite pad and the solvent was concentrated under reduced pressure. The resulting residue was purified by column chromatography (eluant:dichloromethane:methanol=10:1) to give (2S,4S)-1-[[N-[4-(pyrrolidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (15.2 mg).

reactant | (2S,4S)-1-[[N-Benzyloxycarbonyl-N-[4-(piperidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N2CCCCC2)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C29H37FN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
catalyst | palladium carbon | 3.0 mg | [C].[Pd]
product | (2S,4S)-1-[[N-[4-(pyrrolidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 15.2 mg | N1(CCCC1)C(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C20H29FN4O2
